US09416137B2
To Hydromorphone HCl (50.0 g, 155.3 mmol) in dimethylformamide (500 mL) was added sodium hydride (14.30 g, 357.4 mmol) portionwise with cooling. The addition was conducted over 25 minutes. The reaction was stirred at room temperature for 1.5 hours before the addition of benzyl chloride (17.88 mL, 357.4 mmol) over 10 minutes with cooling. The reaction was allowed to warm to room temperature and stirred for 40 hours. The reaction was incomplete so additional benzyl chloride (1.79 mL, 15.5 mmol) was added. After 4 hours, the reaction was quenched with water (60 mL), acidified with aqueous HCl (2M, 800 mL) and washed with ethyl acetate/diethyl ether (3:1) (2×800 mL). The aqueous phase was basified with aqueous NaOH (2M, 800 mL) and extracted with ethyl acetate (2×1 L). The organic phases were combined, washed with water/brine (1:1) (2×800 mL) and dried over MgSO4 before concentration under reduced pressure. The residue was taken up in ethyl acetate and washed with water/brine (2×500 mL), dried over MgSO4 before concentration under reduced pressure to give (4R,4aR,7aR,12bS)-9-(benzyloxy)-3-methyl-2,3,4,4a,5,6-hexahydro-1H-4,12-methanobenzofuro[3,2-e]isoquinolin-7(7aH)-one (47.9 g, 95% pure by NMR, 82% yield); [M+H]+ 376.2. This was taken onto the next step without purification.

reactant | Hydromorphone HCl | 155.3 mmol, 50.0 g | CN1CC[C@]23C=4C5=CC=C(C4O[C@H]2C(=O)CC[C@H]3[C@H]1C5)O.Cl
reactant | sodium hydride | 357.4 mmol, 14.30 g | [H-].[Na+]
reactant | benzyl chloride | 357.4 mmol, 17.88 mL | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | benzyl chloride | 15.5 mmol, 1.79 mL | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | dimethylformamide | 500 mL | CN(C=O)C | C3H7NO
product | (4R,4aR,7aR,12bS)-9-(benzyloxy)-3-methyl-2,3,4,4a,5,6-hexahydro-1H-4,12-methanobenzofuro[3,2-e]isoquinolin-7(7aH)-one | 47.9 g, 95% | C(C1=CC=CC=C1)OC1=CC=C2C3=C1O[C@@H]1[C@]34CCN([C@@H]([C@@H]4CCC1=O)C2)C | C24H25NO3
